US05696276
Preparation of 2-(1-acetyloxy-4-methyl-3-pentenyl)-5,8-dihydroxy-1,4-naphthoquinone
288 mg (1 mmole) of shikonin, 226 mg (1.1 mmole) of dicyclohexylcarbodiimide and 30 mg (0.25 mmole) of 4-dimethylaminopyridine were dissolved in 3 ml of dry dichloromethane. To the resulting solution was added 60 mg (1 mmole) of acetic acid at 0° C. under nitrogen gas, and the mixture was stirred for 30 minutes and then at room temperature for further 3 hours. 20 ml of n-hexane was added to the reaction solution. The mixture was filtered to remove the insoluble materials. The filtrate was dried and then concentrated under reduced pressure. The residue was purified with silica gel column chromatography (n-hexane: ethylacetate=20:1-5:1) to obtain 247 mg (Yield: 75%) of the title compound having the following structure as a red precipitate.

reactant | shikonin | 1 mmole, 288 mg | CC(=CC[C@H](C1=CC(=O)C=2C(=CC=C(C2C1=O)O)O)O)C | C16H16O5
reactant | dicyclohexylcarbodiimide | 1.1 mmole, 226 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | acetic acid | 1 mmole, 60 mg | C(C)(=O)O | C2H4O2
reactant | n-hexane | 20 ml | CCCCCC | C6H14
catalyst | 4-dimethylaminopyridine | 0.25 mmole, 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-(1-acetyloxy-4-methyl-3-pentenyl)-5,8-dihydroxy-1,4-naphthoquinone | 247 mg, Yield: 75% | C(C)(=O)OC(CC=C(C)C)C=1C(C2=C(C=CC(=C2C(C1)=O)O)O)=O | C18H18O6
